Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
SOB and abdominal distention. 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a very nice ___ year-old gentleman 
with prior history of dilated cardiomyopathy with end-stage 
systolic heart failure with EF of 20%, s/p ICD placement 
presenting with chest pain over the past two to three days. The 
pain is sharp and stabbing in nature, last a few seconds to a 
minute at a time. He cannot think of any precipitants or 
alleviating factors. The pain is not associated with left arm or 
jaw radiation, and is not associated with nausea. It is 
associated with occasional shortness of breath. He is also 
reporting epigastric and periumbilical sharp and crampy 
abdominal pain. He was admitted to ___ last week 
with the same type of abdominal pain and was found to have a 
gastric ulcer by upper endoscopy. He was discharged and told to 
take a medicaiton but he was unable to fill the prescription 
because it was too expensive. He also reports running out of his 
torsemide on ___ and has not refilled this prescription 
either. Consequently, he has noticed increased lower extremity 
edema and abdominal girth since then.  
intermittent substernal stabbing pain lasting 1min. also having 
new yellow diarrhea, nausea. abd exam unremarkable. dx with 
ulcer 1 wk ago at an OSH. ecg with afib no ST-T wave changes. 
BNP is stable. no longer having cp. was pain free when he came 
in. therapeutic on coumadin. cxr looks liked increased pulm 
vascular congestion.  
.  
He is also reporting nausea, and diahrrea. His diahrrea has been 
yellow and watery without blood or melena for three days. He 
denied recent travel or sick contacts.  
.  
In the ER his VS were 98.8 73 100/57 18 99% RA. CXR showed 
increased pulmonary vascular congestion. He was given aspirin 
325mg PO X1. He was found to be trace guaiac positive.  
.  
On ROS he is denying fevers or chills, and his chest pain has 
not recurred since admission.  
 
On review of systems, s/he denies any prior history of deep 
venous thrombosis, pulmonary embolism, bleeding at the time of 
surgery, myalgias, joint pains, cough, hemoptysis, black stools 
or red stools. S/he denies recent fevers, chills or rigors. S/he 
denies exertional buttock or calf pain. All of the other review 
of systems were negative.  
 
Cardiac review of systems is notable for absence, dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: - Diabetes, - Dyslipidemia, - 
Hypertension  
2. CARDIAC HISTORY:  
-CABG: None.  
-PERCUTANEOUS CORONARY INTERVENTIONS: None.  
-PACING/ICD: ___ EnTrust ___ ___ cardiomyopathy EF 25% 
and NSVT  
.  
PAST MEDICAL HISTORY:  
-Dilated Cardiomyopathy, TTE ___: EF 20%, diagnosed after 
presenting with Class III CHF symptoms in ___, thought to be 
viral etiology, s/p ICD. Dry weight 200lbs. Class III CHF.  
-Ventricular Tachycardia, first noted in ___, s/p syncope from 
NSVT in ___ despite amiodarone put for prophylaxis (EF 25%), 
ICD in place ___ EnTrust ___ ICD)  
-Atrial Fibrillation, on warfarin, diagnosed in the setting of 
hyperthyroidism  
-CVA (L PCA, thought to be cardioembolic)  
-Hyperthyroidism, secondary to amiodarone (d/ced ___, s/p 
prednisone and methimazole-->hypothyroidism  
-SDH s/p fall ___ syncope in ___ (Coumadin held ___  
-Anemia  
-Osteoporosis  
-s/p R knee surgery  
-Seizure disorder thought multifacotria (after fall, hematoma, 
stoke)  
-Varicose veins  
-Left medial malleolus ulcer  
-Gout
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. Father with 
"heart problem" at age ___ mother with "heart problem" at age 
___, also with a thyroid condition.
 
Physical Exam:
VITAL SIGNS - 97.9 107/55 72 20 99%RA 95Kg  
GENERAL - well-appearing man in NAD, Oriented x3, comfortable, 
Mood, affect appropriate.  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear, 
Conjunctiva were pink,  
NECK - supple, no thyromegaly, JVP to ear, no carotid bruits.  
LUNGS - Mild bibasilary crackles, no r/rh/wh, good air movement, 
resp unlabored, no accessory muscle use  
HEART - Irregularly irregular. without murmurs.  
ABDOMEN - soft, periumbilical and epigastric tenderness. 
pulsatile liver.  
EXTREMITIES - hyperpigmentation bilaterally. varicosities of 
LLE. crusted 2cm ulcer on left inner leg. 1+ edema b/l.  
 
PULSES:  
Right: DP 1+ ___ 1+  
Left: DP 1+ ___ 1+  

 
Pertinent Results:
WBC-10.7 RBC-3.54* HGB-8.8* HCT-27.3* MCV-77* MCH-24.9* 
MCHC-32.2 RDW-21.6* PLT COUNT-171
NEUTS-74.2* LYMPHS-17.9* MONOS-5.1 EOS-2.4 BASOS-0.5

GLUCOSE-91 UREA N-53* CREAT-2.2* SODIUM-137 POTASSIUM-4.1 
CHLORIDE-100 TOTAL CO2-26 ANION GAP-15

CK(CPK)-77
cTropnT-0.01
CK-MB-NotDone 

proBNP-4501*

___ PTT-31.3 ___

CXR ___: 
FINDINGS: PA and lateral views of the chest were obtained. The 
heart is 
stably enlarged. There is a single-lead pacemaker overlying the 
left 
hemithorax with the single pacer lead in stable position. The 
lungs are clear bilaterally. There are no pleural effusions or 
pneumothorax. No acute osseous abnormalities are identified. 
Multiple right-sided rib fractures. Old rib fractures are again 
identified. 
IMPRESSION: 
Marked cardiomegaly, unchanged from prior studies with clear 
lungs. 

DISCHARGE:

WBC-8.4 RBC-3.72* Hgb-9.0* Hct-29.4* MCV-79* MCH-24.3* 
MCHC-30.8* RDW-19.9* Plt ___

___ PTT-34.4 ___

Glucose-92 UreaN-53* Creat-2.2* Na-134 K-4.3 Cl-97 HCO3-31 
AnGap-10
Calcium-9.0 Phos-3.4 Mg-2.6

Digoxin-1.6
 
Brief Hospital Course:
The patient is a ___ w/ pmh dilated cardiomyopathy with EF 20%, 
pulmonary hypertension, recent gastric ulcer, presenting with 
sharp substernal chest pain, sharp abdominal pain, and 
congestive heart failure.  

# Atypical Chest Pain: sharp and stabbing in nature, per history 
does not appear to be ischemic. Had clean coronaries in ___. Pt 
claims this pain is identical to the pain he gets when he gets 
fluid overloaded. Upon diuresis, patient's pain resolved. 
Enzymes were negative x 3. No ST or T wave changes on EKG. 

# Acute on chronic systolic end-stage heart failure - Patient 
with viral dilated cardiomyopathy with EF of 20%, NYHA III with 
ICD, AFib comes with CHF exacerbation by SOB, increased JVP, 
lung crackles, leg edema, elevated BNP, mildy increased 
pulmonary congestion on CXR. Precipitant is likely to be 
medication non-adherance as the patient has not been taking his 
torsemide for three days, since ___. Patient was started on a 
Lasix drip and had an excellent response going from 210lbs to 
202lbs (dry weight of ~200)Continued lisinopril, continued 
metoprolol, continued spironolactone. SW was consulted and 
determined transportation was a barrier to patient's 
nonadherance. The patient was initiated in the RIDE program and 
is optimistic he will be able to more easily fill his scripts.   


#Abdominal Pain: Likely form gastric ulcer as he had these same 
symptoms last week when he went to the hospital and diagnosed. 
he has not been taking any medications to treat his ulcer. 
Guaiac positive in the ED, no melena. An H Pylori serum antibody 
was sent and returned positive. Pt was started on triple therapy 
and within 2 days patient's pain significantly improved. 
Patient's hematocrit remained stable in high ___ throughout the 
admission. Pt was discharged on amoxicillin, clarithromycin, and 
omeprazole x 2 weeks. 
 
#. Chronic Kidney Disease: Creatinine is at baseline.  

#. Atrial Fibrillation: On coumadin and lopressor, digoxin. 
Digoxin level therapeutic, INR therapeutic. Rate well 
controlled. 
  
#. Hypothyroidism - No active issues. Continuing levothyroxine 
home-dose.  

#. Anemia - Hct 27, slightly below baseline of 30.0. Microcytic. 
iron studies consistent with iron deficiency anemia, likely 
exacerbated in setting of gastric ulcer. Hematocrit remained 
stable, pt started on Iron supplementation.
  
#. Varicose veins / Foot ulcer - Healing and does not look 
infected. No active issues.  
 
Medications on Admission:
allopurinol ___ mg twice a day,  
colchicine 0.6 mg every other day,  
digoxin 0.125 mg daily,  
Keppra 250 mg three times a day,  
levothyroxine 75 mcg daily,  
lisinopril 2.5 mg daily,  
metoprolol tartrate 200 mg three times a day,  
spironolactone 25 mg daily,  
torsemide 80 mg twice a day,  
warfarin per the ___,  
calcium with vitamin D twice a day,  
separate vitamin D daily,  
multivitamin daily,  
Afrin as needed for nasal symptoms  

 
Discharge Medications:
1. Allopurinol ___ mg Tablet Sig: 0.5 Tablet PO twice a day.
Disp:*120 Tablet(s)* Refills:*2*
2. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day).
Disp:*120 Tablet(s)* Refills:*2*
3. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*120 Tablet(s)* Refills:*2*
4. Levetiracetam 250 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).
Disp:*180 Tablet(s)* Refills:*2*
5. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*120 Tablet(s)* Refills:*2*
6. Lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).
Disp:*120 Tablet(s)* Refills:*2*
7. Metoprolol Tartrate 50 mg Tablet Sig: Four (4) Tablet PO TID 
(3 times a day).
Disp:*180 Tablet(s)* Refills:*2*
8. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*120 Tablet(s)* Refills:*2*
9. Torsemide 20 mg Tablet Sig: Four (4) Tablet PO twice a day.
Disp:*240 Tablet(s)* Refills:*2*
10. Warfarin 2.5 mg Tablet Sig: Two (2) Tablet PO once a day: 2 
tablets by mouth daily except ___ take 3 tablets daily. .
Disp:*180 Tablet(s)* Refills:*2*
11. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Amoxicillin 500 mg Capsule Sig: One (1) Capsule PO Q12H 
(every 12 hours).
Disp:*26 Capsule(s)* Refills:*0*
13. Clarithromycin 500 mg Tablet Sig: One (1) Tablet PO Q12H.
Disp:*26 Tablet(s)* Refills:*0*
14. Iron 325 mg (65 mg Iron) Capsule, Sustained Release Sig: One 
(1) Capsule, Sustained Release PO twice a day.
Disp:*120 Capsule, Sustained Release(s)* Refills:*2*
15. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO once a day for 14 days.
Disp:*26 Capsule, Delayed Release(E.C.)(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Acute on chronic systolic heart failure 
Medication non-adherance secondary to social and financial 
stressors 

Secondary: 
Hypertension
Hyperlipidemia 
Chronic kidney disease 

 
Discharge Condition:
Stable, afebrile, chest pain free. Near dry weight at 202lbs

 
Discharge Instructions:
You were admitted to the hospital for chest pain and shortness 
of breath. Your chest pain and shortness of breath was thought 
to be due to increased fluid in your body and this was improved 
by giving you medicines to remove the fluid. Your stomach pain 
was most likely related to an ulcer which was caused by a 
bacterial infection. We are treating your infection with 
antibiotics for a total of 2 weeks. We also consulted social 
work who enrolled you into the RIDE program to give you 
transportation to make sure you continue to fill your 
prescription medications and keep your heart failure under 
control. 

We have made the following changes to your medications: 

START taking omeprazole 40mg by mouth daily for 14 days (last 
dose ___

START taking amoxicillin 500mg by mouth every 12 hours for 14 
days (last dose ___ 

START taking clarithromycin 500mg by mouth every 12 hours for 14 
days (last dose ___ 

START taking Iron sustained release capsule 325mg by mouth 
daily. Note, this medicine may make you constipated. If you 
experience constipation we recommend an over-the-counter 
medicine such as Colace or Senna. 

If you experience chest pain, shortness of breath, fevers, 
please call your PCP or come to the emergency department 
immediately.  

It is critically important to your health to take all your 
medications every day. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
Adhere to 2 gm sodium diet
Fluid Restriction: 2 liters
 
Followup Instructions:
___